* Direct unitHBT current probe; unchangedmodelcards
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.include baseline.spice
.temp 25.0
.option gmin=1e-15 abstol=1e-14 reltol=1e-5 vntol=1e-7
.global sub!
Vsub sub! 0 0
Vdd vdd 0 3.3
Vr4 r4 0 0
Xbgr vdd 0 r4 vref iptat pbias pcasc vbe dvbe g1_bgr
Vload iptat 0 1
Cload vref 0 1p
.control
set num_threads=1
set numdgt=15
op
print @q.xbgr.xq56.qnpn13g2[area]
print @q.xbgr.xq56.qnpn13g2[ic]
print @q.xbgr.xq56.qnpn13g2[ib]
print @q.xbgr.xq60.qnpn13g2[area]
print @q.xbgr.xq60.qnpn13g2[ic]
print @q.xbgr.xq60.qnpn13g2[ib]
print @q.xbgr.xq62.qnpn13g2[area]
print @q.xbgr.xq62.qnpn13g2[ic]
print @q.xbgr.xq62.qnpn13g2[ib]
print @q.xbgr.xq67.qnpn13g2[area]
print @q.xbgr.xq67.qnpn13g2[ic]
print @q.xbgr.xq67.qnpn13g2[ib]
print @q.xbgr.xq68.qnpn13g2[area]
print @q.xbgr.xq68.qnpn13g2[ic]
print @q.xbgr.xq68.qnpn13g2[ib]
print @q.xbgr.xq69.qnpn13g2[area]
print @q.xbgr.xq69.qnpn13g2[ic]
print @q.xbgr.xq69.qnpn13g2[ib]
print @q.xbgr.xq70.qnpn13g2[area]
print @q.xbgr.xq70.qnpn13g2[ic]
print @q.xbgr.xq70.qnpn13g2[ib]
print @q.xbgr.xq71.qnpn13g2[area]
print @q.xbgr.xq71.qnpn13g2[ic]
print @q.xbgr.xq71.qnpn13g2[ib]
print @q.xbgr.xq72.qnpn13g2[area]
print @q.xbgr.xq72.qnpn13g2[ic]
print @q.xbgr.xq72.qnpn13g2[ib]
print @q.xbgr.xq73.qnpn13g2[area]
print @q.xbgr.xq73.qnpn13g2[ic]
print @q.xbgr.xq73.qnpn13g2[ib]
print @q.xbgr.xq74.qnpn13g2[area]
print @q.xbgr.xq74.qnpn13g2[ic]
print @q.xbgr.xq74.qnpn13g2[ib]
print @q.xbgr.xq75.qnpn13g2[area]
print @q.xbgr.xq75.qnpn13g2[ic]
print @q.xbgr.xq75.qnpn13g2[ib]
print @q.xbgr.xq76.qnpn13g2[area]
print @q.xbgr.xq76.qnpn13g2[ic]
print @q.xbgr.xq76.qnpn13g2[ib]
print v(vref) i(vload) i(vdd) v(vbe) v(dvbe) v(pbias) v(pcasc)
quit
.endc
.end
