* Extracted by KLayout with SG13G2 LVS runset on : 18/09/2026 20:29

.SUBCKT g1_dose_pair D_ELT D_STD G_SHARED VSS
M$1 VSS G_SHARED D_ELT VSS sg13_lv_nmos L=0.496231155779u W=3.98u AS=3.231p
+ AD=0.1764p PS=15.26u PD=1.68u rfmode=0
M$2 VSS G_SHARED D_STD VSS sg13_lv_nmos L=0.5u W=3.98u AS=1.3532p AD=1.3532p
+ PS=8.64u PD=8.64u rfmode=0
.ENDS g1_dose_pair
